US07125840B2
2-(R)-2-(2-Amino-2-methylpropionylamino)-3-phenylmethoxy-propionic acid N-ethyl-N-(2,2-dioxo-3-(4-methylphenyl)-2-thia-1-azaspiro[4.5]dec-3-ene-4-ylmethyl)amide trifluoroacetate
4-Ethylaminomethyl-3-(4-methylphenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide, shown below, was prepared according to the methods described in Examples 1 and 2. Bromination with N-bromosuccinimide afforded a mixture of 4-bromomethyl-3-4-methylphenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide and 3-(4-bromomethyl-phenyl)-4-methyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide. The raw mixture (400 mg) was dissolved in ethanol (10 mL) and ethylamine (70% in water, 5 mL) was added. The solution was stirred overnight at room temperature, concentrated and the residue was dissolved in CH2Cl2, washed with water and extracted with 0.5 M HCl. After addition of NaOH and extraction with CH2Cl2 the organic layer was dried (Na2SO4) and evaporated. The two products were separated by column chromatography (CH2Cl2/acetone 9:1) and the title compound compound [4-Ethylaminomethyl-3-(4-methylphenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide] was isolated as white crystals. Yield: 80 mg, 24%; MS (IS): 334 [MH]+.

reactant | 2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | N1S(C=CC12CCCCC2)(=O)=O | C8H13NO2S
reactant | 3-(4-bromomethyl-phenyl)-4-methyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | BrCC1=CC=C(C=C1)C=1S(NC2(C1C)CCCCC2)(=O)=O | C16H20BrNO2S
reactant | ethylamine | 5 mL | C(C)N | C2H7N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Ethylaminomethyl-3-(4-methylphenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | C(C)NCC1=C(S(NC12CCCCC2)(=O)=O)C2=CC=C(C=C2)C | C18H26N2O2S
